US06936608B2
e) 2-(6-Fluoro-2′-(methanesulfonyl)biphenyl-3-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
A mixture of 5-bromo-2-fluoro-2′-(methanesulfonyl)biphenyl (0.7013 g, 2.13 mmol), dried potassium acetate (0.4182 g, 4.26 mmol) and bis(pinacolato)diboron (0.6223 g, 2.45 mmol) in 1,4-dioxane (4.9 ml) and dimethylsulfoxide (0.1 ml) was degassed by bubbling nitrogen through the mixture for 45 min. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloromethane adduct (52.2 mg, 0.0639 mmol) was added and the mixture was stirred at 90° C. under nitrogen for 16 h. After allowing to cool, the mixture was filtered through glass fibre paper, and the solid was washed with a little dichloromethane. The combined filtrates were evaporated in vacuo and the residue was partitioned between 2 M aqueous NaOH (10 ml) and diethyl ether (10 ml). The aqueous layer was washed with more diethyl ether (10 ml), then acidified to pH 6 with concentrated hydrochloric acid, while cooling in an ice bath, causing a solid to precipitate. After leaving in a fridge overnight, the solid was collected by filtration, washed with water and dried under vacuum to leave 0.8088 g (100%) of the title compound as a pale grey solid: 1H NMR (360 MHz, CDCl3) δ 1.33 (12H, s), 2.87 (3H, s), 7.16 (1H, dd, J 8.4, 9.8 Hz), 7.38 (1H, dd, J 1.2, 7.2 Hz), 7.60 (1H, m), 7.66 (1H, m), 7.78 (1H, dd, J 1.4, 8.1 Hz), 7.85-7.89 (1H, m), 8.20 (1H, dd, J 1.1, 7.7 Hz).

reactant | 5-bromo-2-fluoro-2′-(methanesulfonyl)biphenyl | 2.13 mmol, 0.7013 g | BrC=1C=CC(=C(C1)C1=C(C=CC=C1)S(=O)(=O)C)F | C13H10BrFO2S
reactant | potassium acetate | 4.26 mmol, 0.4182 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 2.45 mmol, 0.6223 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 4.9 ml | O1CCOCC1 | C4H8O2
solvent | dimethylsulfoxide | 0.1 ml | CS(=O)C | C2H6OS
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloromethane adduct | 0.0639 mmol, 52.2 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2-(6-Fluoro-2′-(methanesulfonyl)biphenyl-3-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.8088 g, 100% | FC1=CC=C(C=C1C1=C(C=CC=C1)S(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C19H22BFO4S
